US03993645
Following the procedure given in Example 13a 2-hydroxydibenzofuran was interacted with 4-methylphenacylchloride in the presence of anhydrous potassium carbonate in acetone to give ω-(2-dibenzofuranyloxy)-p-methylacetophenone. Following recrystallization from 2-ethoxyethanol, this compound melted at 162°-164° C.

reactant | 2-hydroxydibenzofuran | OC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H8O2
reactant | 4-methylphenacylchloride | CC1=CC=C(C(CCl)=O)C=C1 | C9H9ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | ω-(2-dibenzofuranyloxy)-p-methylacetophenone | C1=C(C=CC=2OC3=C(C21)C=CC=C3)OCC(=O)C3=CC=C(C=C3)C | C21H16O3
